US05994378
A mixture of 3-formyl-5-methylindole (0.50 g), hydroxylamine hydrochloride (0.44 g) and sodium acetate (0.52 g) in acetic acid (5 ml) was stirred for 2 hours, then acetic anhydride (2.5 ml) was added to the mixture and allowed to react under reflux for 0.5 hour. After cooling, the reaction mixture was poured into ice-water and extracted with ethyl acetate. After filtration of insoluble materials, the filtrate was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and chloroform. The fractions containing the objective compounds were combined and concentrated under reduced pressure to give 3-cyano-5-methylindole (109 mg).

reactant | 3-formyl-5-methylindole | 0.50 g | C(=O)C1=CNC2=CC=C(C=C12)C | C10H9NO
reactant | hydroxylamine hydrochloride | 0.44 g | Cl.NO
reactant | sodium acetate | 0.52 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-cyano-5-methylindole | 109 mg | C(#N)C1=CNC2=CC=C(C=C12)C | C10H8N2
